US07601844B2
Step 1: 1-Benzyl-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol
A suspension of 4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol (540 mg, 2.252 mmol) and benzaldehyde (0.274 mL, 2.70 mmol) in methylene chloride (15 mL) was treated with sodium triacetoxyborohydride (716 mg, 3.38 mmol), and the mixture was stirred overnight at room temperature. The mixture was concentrated in-vacuo. The residue was taken up in ethyl acetate, washed 3× with 1 N NaOH, once with brine, dried over sodium sulfate, and concentrated in-vacuo to yield the title compound (696 mg, 2.110 mmol, 94% yield) as a colorless oil. MS (ESI+)=330.14, (M+H)+.

reactant | 4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 2.252 mmol, 540 mg | ClC1=CC=C(C=C1)C1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | benzaldehyde | 2.70 mmol, 0.274 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 3.38 mmol, 716 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 2.110 mmol, 696 mg, 94% yield | C(C1=CC=CC=C1)N1CC(C(CC1)(O)C1=CC=C(C=C1)Cl)(C)C | C20H24ClNO
